US04244956
EXAMPLE 5: 2-(2,5-dimethylphenylmethoxy)phenol (V)
For the synthesis of V, 15.00 g of 2,5-dimethylbenzyl chloride was added to 10.68 g of catechol dissolved in 10 ml of absolute ethanol under nitrogen. KOH, 5.44 g dissolved in 50 ml of ethanol, is added dropwise over 30 minutes with stirring. The solution is then refluxed under nitrogen for 2 hours. The solution is filtered to remove KCl. The solution is cooled over night and filtered to remove di-substituted product. Ethanol is removed by rotary evaporation, and the oil is dissolved in 50 ml of chloroform. The pH is adjusted to neutrality with HCl and extracted three times with equal volumes of water to remove unreacted catechol and salts. Chloroform is removed by rotary evaporation. The oil is vacuum-distilled at 8 mm Hg and the fraction containing V is collected.

reactant | 2,5-dimethylbenzyl chloride | 15.00 g | CC1=C(CCl)C=C(C=C1)C | C9H11Cl
reactant | catechol | 10.68 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | KOH | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2,5-dimethylphenylmethoxy)phenol | CC1=C(C=C(C=C1)C)COC1=C(C=CC=C1)O | C15H16O2
